US06787536B2
4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
4-(5-Bromopyrirnidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (1.01 g), 4-fluorophenylboronic acid (0.45 g), tetrakis(triphenylphosphine)palladium(0) (0.12 g) and potassium phosphate (1.25 g) were dissolved in a mixture of 1,2-dimethoxyethane (40 ml) and water (10 ml), degassed and heated to reflux under nitrogen. After 16 h. the reaction was cooled, reduced in vacuo, dissolved in diethyl ether (100 ml) and washed with water (3×20 ml), saturated brine (20 ml), dried (Na2SO4) and evaporated. The black residue was then chromatographed on silica, with 2% methanol/dichloromethane to provide the title compound as a pale yellow solid (1.01 g, 96%).

reactant | 4-(5-Bromopyrirnidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 1.01 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
reactant | 4-fluorophenylboronic acid | 0.45 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 1.25 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 1.01 g, 96% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
